### PR TITLE
[Merged by Bors] - feat: shortlex order on lists

### PR DESCRIPTION
**Pull request by hannahfechtner**
Given a relation `r` on a type `α`, the shortlex order over `r` on lists (first compare by length; if equal, then compare by lexicographic order over `r`) is defined. We prove that this inherits properties from the underlying relation `r` such as trichotomous-icity, asymmetry, order-connectedness. 

Most importantly, `Shortlex r` is well-founded if `r` is well-founded, giving a well-founded order on lists. (Notably, List.Lex is not well-founded). 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Shortlex.lean [hunk 1]
```diff
@@ -0,0 +1,296 @@
...
+      exact len_equal hab h5
+    right
+    exact len_equal hbc h6
+
+instance isTrichotomous [IsTrichotomous α r] : IsTrichotomous (List α) (Shortlex r) where
+  trichotomous := by
+    intro a b
+    have : a.length < b.length ∨ a.length = b.length ∨ a.length > b.length :=
+      trichotomous a.length b.length
+    rcases this with h1 | h23
```
Comment (mattdiamond) [inline Mathlib/Data/List/Shortlex.lean:151]: Just nitpicking here but you could write this as `rcases this with h1 | h2 | h3` which saves you the trouble of having to do another `rcases` two lines below. Same goes for line 165 with the extra `rcases` on 171.

Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: oh nice, thanks!

File: Mathlib/Data/List/Shortlex.lean [hunk 2]
```diff
@@ -0,0 +1,294 @@
...
+def Shortlex {α : Type*} (r : α → α → Prop) : List α → List α → Prop :=
+  fun a b => Prod.Lex (fun n1 n2 => n1 < n2) (fun a b => List.Lex r a b) (a.length, a) (b.length, b)
+
+namespace Shortlex
+
+variable {α : Type*} {r : α → α → Prop}
+
+/-- If a list `s` is shorter than a list `t`, then `s` is smaller than `t` under any shortlex
+order -/
+theorem shorter_than {s t : List α} (h : s.length < t.length) : Shortlex r s t :=
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:45]:
```suggestion
theorem of_length_lt {s t : List α} (h : s.length < t.length) : Shortlex r s t :=
```

File: Mathlib/Data/List/Shortlex.lean [hunk 3]
```diff
@@ -0,0 +1,294 @@
...
+  Prod.Lex.left _ _ h
+
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r` exactly when `s` is smaller than `t` under the lexicographic order over `r`-/
+theorem len_equal {s t : List α} (h : s.length = t.length) (h2 : List.Lex r s t) :
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:50]:
```suggestion
theorem of_lex {s t : List α} (h : s.length = t.length) (h2 : List.Lex r s t) :
```

File: Mathlib/Data/List/Shortlex.lean [hunk 4]
```diff
@@ -0,0 +1,294 @@
...
+      rw [← hp.2] at h
+      exact ⟨hp.1, h⟩
+  intro hpq
+  rcases hpq with h1 | h2
+  · exact shorter_than h1
+  exact len_equal h2.1 h2.2
+
+theorem cons_iff [IsIrrefl α r] {a : α} {s t : List α} : Shortlex r (a :: s) (a :: t) ↔
+    Shortlex r s t := by
+  constructor
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:80]: I would guess you can make lots of progress here with `simp [shortlex_def]`

**Review by eric-wieser — COMMENTED** [review]
Some initial comments, sorry for not having time right now for a more thorough review.

File: Mathlib/Data/List/Shortlex.lean (hunk 4 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: `simp [shortlex_def, List.Lex.cons_iff]` does the whole thing, wow!

File: Mathlib/Data/List/Shortlex.lean [hunk 5]
```diff
@@ -0,0 +1,273 @@
...
+
+variable {α : Type*} {r : α → α → Prop}
+
+/-- If a list `s` is shorter than a list `t`, then `s` is smaller than `t` under any shortlex
+order -/
+theorem of_length_lt {s t : List α} (h : s.length < t.length) : Shortlex r s t :=
+  Prod.Lex.left _ _ h
+
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r` exactly when `s` is smaller than `t` under the lexicographic order over `r`-/
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:49]: The "exactly when" in this docstring describes a true and interesting theorem stated with `Iff`, but not the theorem below. Can you add the missing theorem in terms of this one?

Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: oh, you're totally, right, I missed that! it's done now

File: Mathlib/Data/List/Shortlex.lean [hunk 6]
```diff
@@ -0,0 +1,285 @@
...
+    List.Lex r s t := by
+  constructor
+  · intro h2
+    unfold Shortlex at h2
+    rw [h, Prod.lex_def, lt_self_iff_false, false_or] at h2
+    simp only [true_and] at h2
+    exact h2
+  exact fun h1 => of_lex h h1
+
+theorem shortlex_def {s t : List α} : Shortlex r s t ↔
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:68]:
```suggestion
theorem _root_.List.shortlex_def {s t : List α} : Shortlex r s t ↔
```
Otherwise `shortlex` appears twice in the name.

File: Mathlib/Data/List/Shortlex.lean [hunk 7]
```diff
@@ -0,0 +1,285 @@
...
+theorem of_lex {s t : List α} (h : s.length = t.length) (h2 : List.Lex r s t) :
+    Shortlex r s t := by
+  unfold Shortlex
+  rw [h]
+  exact Prod.Lex.right _ h2
+
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r` exactly when `s` is smaller than `t` under the lexicographic order over `r`-/
+theorem of_lex_iff {s t : List α} (h : s.length = t.length) : Shortlex r s t ↔
+    List.Lex r s t := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:59]:
```suggestion
theorem _root_.List.shortlex_iff_lex {s t : List α} (h : s.length = t.length) :
    Shortlex r s t ↔ List.Lex r s t := by
```
The "of" naming is about implication only, not `iff`. You could add `of_length_eq` on the end here if you wanted, but I think it's fine to keep it short as there's no ambiguity.

File: Mathlib/Data/List/Shortlex.lean [hunk 8]
```diff
@@ -0,0 +1,285 @@
...
+            simp only [List.length_cons, Nat.succ_eq_add_one, List.singleton_append,
+              add_left_inj] at h2
+            rw [← h2.1] at hb
+            apply iha headp h _ hb
+            intro l hl
+            apply ih
+            rw [List.length_cons, ← h2.1]
+            exact hl
+
+theorem wf {α : Type*} (r : α → α → Prop) {h : WellFounded r} : WellFounded (Shortlex r) := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:256]:
```suggestion
theorem wf (h : WellFounded r) : WellFounded (Shortlex r) := by
```
since there is no way to infer `h` in your version, and the other two variables are already declared above.

File: Mathlib/Data/List/Shortlex.lean [hunk 9]
```diff
@@ -0,0 +1,285 @@
...
+    have : a.length < b.length ∨ a.length = b.length ∨ a.length > b.length :=
+      trichotomous a.length b.length
+    rcases this with h1 | h2 | h3
+    · left; exact of_length_lt h1
+    · induction a with
+    | nil =>
+      cases b with
+      | nil => right; left; rfl
+      | cons head tail => simp only [List.length_nil, List.length_cons, Nat.succ_eq_add_one,
+        self_eq_add_left, add_eq_zero, List.length_eq_zero, one_ne_zero, and_false] at h2
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:149]: These indents are unusual; better as
```suggestion
    · induction a with
      | nil =>
        cases b with
        | nil => right; left; rfl
        | cons head tail =>
          simp only [List.length_nil, List.length_cons, Nat.succ_eq_add_one,
            self_eq_add_left, add_eq_zero, List.length_eq_zero, one_ne_zero, and_false] at h2
```

File: Mathlib/Data/List/Shortlex.lean [hunk 10]
```diff
@@ -0,0 +1,285 @@
...
+* `L.length = M.length` and `L < M` under the lexicographic ordering over `r` on lists
+
+## Main results
+
+We show that if `r` is well-founded, so too is the shortlex order over `r`
+
+## See also
+
+Related files are:
+* `Mathlib.Data.List.Lex`: Lexicographic order on `List α`.
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:24]: Can you refer to these by their filenames, with `/`s, instead? I don't think docgen really knows how to parse this style of link.

**Review by eric-wieser — COMMENTED** [review]
The naming largely looks good now, thanks! (or at least, as good as the existing `List.Lex` naming...)

Perhaps @vihdzp has some opinions around the names of the WellFounded stuff, and whether some `instance`s are missing.

File: Mathlib/Data/List/Shortlex.lean (hunk 9 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: oh yup, I totally missed updating that when I switched something else

File: Mathlib/Data/List/Shortlex.lean (hunk 10 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: done! if what I've done is correct (merely replacing `.` with `/`), I can also make a small PR updating this in the `List.Lex` file

**Comment by hannahfechtner** [comment]
I noticed that there is something going on with `aux` in a number of the `List.Lex` instances - it got too long to type here so I posted on Zulip: https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/aux.20appearing.20in.20instance

File: Mathlib/Data/List/Shortlex.lean [hunk 11]
```diff
@@ -0,0 +1,285 @@
...
+    apply of_length_lt
+    simp only [List.length_nil, List.length_cons, Nat.succ_eq_add_one, lt_add_iff_pos_left,
+      add_pos_iff, zero_lt_one, or_true]
+
+@[simp]
+theorem singleton_iff (a b : α) : Shortlex r [a] [b] ↔ r a b := by
+  simp only [shortlex_def, length_singleton, lt_self_iff_false, Lex.singleton_iff, true_and,
+    false_or]
+
+instance isOrderConnected [IsOrderConnected α r] [IsTrichotomous α r] :
```
Comment (vihdzp) [inline Mathlib/Data/List/Shortlex.lean:115]: For this and the other instances, all of them should be more general theorems about the lexicographic product. Though additionally, do you really need the `IsOrderConnected` property? I've never actually come across that typeclass being used in Mathlib.

File: Mathlib/Data/List/Shortlex.lean [hunk 12]
```diff
@@ -0,0 +1,285 @@
...
+    · simp only [List.cons_append, List.length_cons, List.length_append, Nat.succ_eq_add_one,
+      add_left_inj, add_right_inj]
+      exact h2.1
+    exact List.Lex.append_left r h2.2 (head :: tail)
+
+section WellFounded
+
+variable {h : WellFounded r}
+
+theorem shortlexAccessible {a : α} (n : ℕ) (aca : Acc r a)
```
Comment (vihdzp) [inline Mathlib/Data/List/Shortlex.lean:218]:
```suggestion
theorem _root_.Acc.shortlex {a : α} (n : ℕ) (aca : Acc r a)
```

File: Mathlib/Data/List/Shortlex.lean [hunk 13]
```diff
@@ -0,0 +1,285 @@
...
+              add_left_inj] at h2
+            rw [← h2.1] at hb
+            apply iha headp h _ hb
+            intro l hl
+            apply ih
+            rw [List.length_cons, ← h2.1]
+            exact hl
+
+theorem wf (h : WellFounded r) : WellFounded (Shortlex r) := by
+  have : ∀ n, ∀ (a : List α), a.length = n → Acc (Shortlex r) a := by
```
Comment (vihdzp) [inline Mathlib/Data/List/Shortlex.lean:257]: You can use `suffices` instead to make the proof a bit cleaner.

**Review by vihdzp — COMMENTED** [review]
Initial remarks. I expect that there's a lot of golfing that can be done here.

File: Mathlib/Data/List/Shortlex.lean [hunk 14]
```diff
@@ -0,0 +1,285 @@
...
+
+/-! ### shortlex ordering -/
+
+namespace List
+
+/-- Given a relation `r` on `α`, the shortlex order on `List α`, for which
+`[a0, ..., an] < [b0, ..., b_k]` if `n < k` or `n = k` and `[a0, ..., an] < [b0, ..., bk]`
+under the lexicographic order induced by `r`. -/
+def Shortlex {α : Type*} (r : α → α → Prop) : List α → List α → Prop :=
+  fun a b => Prod.Lex (fun n1 n2 => n1 < n2) (fun a b => List.Lex r a b) (a.length, a) (b.length, b)
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/Data/List/Shortlex.lean:37]: Actually, this seems even better:
```suggestion
def Shortlex {α : Type*} (r : α → α → Prop) : List α → List α → Prop :=
  Prod.Lex (InvImage (· < ·) List.length) (List.Lex r)
```
This should allow you to more directly apply pre-existing theorems on `Prod.Lex` to `Shortlex`.

[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/Data/List/Shortlex.lean:37]: Actually, this seems even better. It should allow you to leverage existing instances and theorems on `Prod.Lex` and `InvImage` better:
```
def Shortlex {α : Type*} (r : α → α → Prop) : List α → List α → Prop :=
  InvImage (Prod.Lex (· < ·) (List.Lex r)) fun a ↦ (a.length, a)
```

File: Mathlib/Data/List/Shortlex.lean [hunk 15]
```diff
@@ -0,0 +1,285 @@
...
+  · simp only [List.length_nil, not_lt_zero'] at h1
+  exact List.Lex.not_nil_right _ _ h2.2
+
+theorem nil_left_or_eq_nil (s : List α) : Shortlex r [] s ∨ s = [] := by
+  cases s with
+  | nil => right; rfl
+  | cons head tail =>
+    left
+    apply of_length_lt
+    simp only [List.length_nil, List.length_cons, Nat.succ_eq_add_one, lt_add_iff_pos_left,
```
[the remark this answers is not in the document]
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:106]: it does, thanks!

File: Mathlib/Data/List/Shortlex.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: done, thanks!

File: Mathlib/Data/List/Shortlex.lean (hunk 11 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:112]: I'll work on that! I personally don't need `IsOrderConnected`, but I saw it in the `List.Lex` file and (perhaps wrongly!) assumed it would be a good thing to have

File: Mathlib/Data/List/Shortlex.lean [hunk 16]
```diff
@@ -0,0 +1,282 @@
...
+            simp only [List.length_cons, Nat.succ_eq_add_one, List.singleton_append,
+              add_left_inj] at h2
+            rw [← h2.1] at hb
+            apply iha headp h _ hb
+            intro l hl
+            apply ih
+            rw [List.length_cons, ← h2.1]
+            exact hl
+
+theorem wf (h : WellFounded r) : WellFounded (Shortlex r) := by
```
Comment (vihdzp) [inline Mathlib/Data/List/Shortlex.lean:253]: This theorem should just be a composition of `InvImage.wf` and `WellFounded.prod_lex`.

Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:253]: Hmm, I can't quite get that to work, at least with my naive approach of simply composing the two. (`WellFounded.prod_lex` requires the orders on both elements of the tuple to be well-founded. The lexicographic order on lists is not well-founded). Do you have any further advice to point me along? Thanks!

Comment (vihdzp) [reply Mathlib/Data/List/Shortlex.lean:253]: But the lexicographic order on lists is well-founded! At least, if you define it so that the rightmost entry is the least significant... which is not what Mathlib defines it as.

Alternatively, the lexicographic order on lists is well-founded if you restrict it to lists of a specific length. Which means we could perhaps make use of [`WellFounded.psigma_lex`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/RelClasses.html#WellFounded.psigma_lex)? But that might very well be more trouble than it's worth.

Comment (vihdzp) [reply Mathlib/Data/List/Shortlex.lean:253]: Here's a crazy idea, and feel free to ignore me if you think this will just lead to more trouble. We could define `Shortlex` as
```
def Shortlex {α : Type u} (r : α → α → Prop) : List α → List α → Prop :=
  InvImage (PSigma.Lex (· < ·) fun x ↦ Subrel (List.Lex r) fun l ↦ l.length = x)
    fun a ↦ ⟨a.length, ⟨a, rfl⟩⟩
```
Separately, we can prove that a well-founded relation induces a well-founded ordering on lists of a given length (i.e. `List.Vector`s). Then, the well-foundedness of the shortlex order just boils down to `InvImage.wf` + `WellFounded.psigma_lex`, hopefully.

Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:205]: It's a cool idea! I've tried it out, but unfortunately it doesn't make the proof any nicer. 

I have gone in and added some more general lemmas (for InvImage and Prod.Lex) for the trichotomous and asymmetric instances, and those make proofs nicer :)

File: Mathlib/Data/List/Shortlex.lean [hunk 17]
```diff
@@ -0,0 +1,234 @@
...
+--to add to another file
+theorem InvImage.trichotomous {α β : Type*} {r : α → α → Prop} [IsTrichotomous α r] {f : β → α}
+    (h : Function.Injective f) : ∀ a b, (InvImage r f) a b ∨ a = b ∨ (InvImage r f) b a := by
+  intro a b
+  rw [← Function.Injective.eq_iff h]
+  exact IsTrichotomous.trichotomous (f a) (f b)
+
+instance InvImage.isAsymm {α β : Type*} {r : α → α → Prop} [IsAsymm α r] (f : β → α) :
+    IsAsymm β (InvImage r f) where
+  asymm := fun a b h h2 => IsAsymm.asymm (f a) (f b) h h2
```
Comment (hannahfechtner) [inline Mathlib/Data/List/Shortlex.lean:40]: What file should these go in?

File: Mathlib/Data/List/Shortlex.lean (hunk 11 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: I deleted it, I don't see any use for it! And now the others use more general results

File: Mathlib/Data/List/Shortlex.lean (hunk 17 above)
Comment (vihdzp) [reply Mathlib/Data/List/Shortlex.lean:40]: I would expect there to already be other instances on `InvImage`, this should go alongside them.

File: Mathlib/Data/List/Shortlex.lean (hunk 11 above)
Comment (kbuzzard) [reply Mathlib/Data/List/Shortlex.lean]: @hannahfechtner is this conversation now resolvable? This PR has come up in the triage meeting and there are several unresolved conversations but the PR is not marked awaiting-author, which is a bit confusing (at least to me!)

File: Mathlib/Data/List/Shortlex.lean (hunk 17 above)
Comment (kbuzzard) [reply Mathlib/Data/List/Shortlex.lean:40]: How about [mathlib4](https://github.com/leanprover-community/mathlib4/tree/aecc00caf62859a8dcbc0448c1dcce5385bfdf02)/[Mathlib](https://github.com/leanprover-community/mathlib4/tree/aecc00caf62859a8dcbc0448c1dcce5385bfdf02/Mathlib)/[Order](https://github.com/leanprover-community/mathlib4/tree/aecc00caf62859a8dcbc0448c1dcce5385bfdf02/Mathlib/Order)
/RelClasses.lean ?

File: Mathlib/Data/List/Shortlex.lean [hunk 18]
```diff
@@ -0,0 +1,234 @@
...
+variable {α : Type*} {r : α → α → Prop}
+
+/-- If a list `s` is shorter than a list `t`, then `s` is smaller than `t` under any shortlex
+order. -/
+theorem of_length_lt {s t : List α} (h : s.length < t.length) : Shortlex r s t :=
+  Prod.Lex.left _ _ h
+
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r`  when `s` is smaller than `t` under the lexicographic order over `r` -/
+theorem of_lex {s t : List α} (h : s.length = t.length) (h2 : List.Lex r s t) :
```
Comment (madvorak) [inline Mathlib/Data/List/Shortlex.lean:61]: Can we get better names of assumptions?

File: Mathlib/Data/Prod/Basic.lean [hunk 19]
```diff
@@ -199,6 +199,21 @@ instance IsTrichotomous [IsTrichotomous α r] [IsTrichotomous β s] :
   { exact (trichotomous_of (s) a b).imp3 (Lex.right _) (congr_arg _) (Lex.right _) }
   { exact Or.inr (Or.inr <| Lex.left _ _ hji) }⟩
 
+instance IsAsymm {α β : Type*} {r : α → α → Prop} [IsAsymm α r] {s : β → β → Prop}
+    [IsAsymm β s] : IsAsymm (α × β) (Prod.Lex r s) where
+  asymm := by
+    intro a b h1 h2
```
Comment (madvorak) [inline Mathlib/Data/Prod/Basic.lean:205]: Can we reserve the names `h1` and `h2` for things that talk about the numbers `1` and `2` respectively?

**Comment by madvorak** [comment]
We certainly want to have `Shortlex` in Mathlib!

File: Mathlib/Data/List/Shortlex.lean [hunk 20]
```diff
@@ -0,0 +1,285 @@
...
+over a relation `r`  when `s` is smaller than `t` under the lexicographic order over `r`-/
+theorem of_lex {s t : List α} (h : s.length = t.length) (h2 : List.Lex r s t) :
+    Shortlex r s t := by
+  unfold Shortlex
+  rw [h]
+  exact Prod.Lex.right _ h2
+
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r` exactly when `s` is smaller than `t` under the lexicographic order over `r`-/
+theorem _root_.List.shortlex_iff_lex {s t : List α} (h : s.length = t.length) :
```
[the remark this answers is not in the document]
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:69]: `(a, b) < (a, c) ↔ b < c` (under the lexicographic order) only holds if `r` is irreflexive, and I don't want to enforce that instance for this theorem

[the remark this answers is not in the document]
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:69]: I'm also planning to add more lemmas like 

`theorem List.Lex.append_left_iff [IsIrrefl α r] : List.Lex r (s ++ t₁) (s ++ t₂) ↔ List.Lex r t₁ t₂ ` in a future PR

File: Mathlib/Data/List/Shortlex.lean (hunk 11 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: Sorry! I'm going to take the time now to go through all my PRs and make sure things are clear :)

File: Mathlib/Data/List/Shortlex.lean [hunk 21]
```diff
@@ -0,0 +1,285 @@
...
+    Shortlex r s t ↔ List.Lex r s t := by
+  constructor
+  · intro h2
+    unfold Shortlex at h2
+    rw [h, Prod.lex_def, lt_self_iff_false, false_or] at h2
+    simp only [true_and] at h2
+    exact h2
+  exact fun h1 => of_lex h h1
+
+theorem _root_.List.shortlex_def {s t : List α} : Shortlex r s t ↔
```
[the remark this answers is not in the document]
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:78]: done!

File: Mathlib/Data/List/Shortlex.lean (hunk 11 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: Also there are a few unresolved conversations where I asked a question and was waiting for a response, I'll go through and mark those clearly

File: Mathlib/Data/List/Shortlex.lean (hunk 16 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:179]: @vihdzp are you okay with this plan? (using your idea with `InvImage` but not `PSigma`)

File: Mathlib/Data/List/Shortlex.lean (hunk 17 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:40]: > I would expect there to already be other instances on `InvImage`, this should go alongside them.

Yes, I found https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#InvImage.irreflexive but it's marked as deprecated with no message provided, that's why I was confused

Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: moved to `Mathlib/Order/RelClasses.lean`

File: Mathlib/Data/Prod/Basic.lean (hunk 19 above)
Comment (hannahfechtner) [reply Mathlib/Data/Prod/Basic.lean]: changed!

File: Mathlib/Data/List/Shortlex.lean (hunk 18 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: I've updated them; please let me know if you have better ideas!

File: Mathlib/Order/RelClasses.lean [hunk 22]
```diff
@@ -217,6 +217,17 @@ instance (priority := 100) isStrictTotalOrder_of_isStrictTotalOrder [IsStrictTot
     IsStrictWeakOrder α r :=
   { isStrictWeakOrder_of_isOrderConnected with }
 
+/-! ### Inverse Image -/
+theorem InvImage.trichotomous {α β : Type*} {r : α → α → Prop} [IsTrichotomous α r] {f : β → α}
```
Comment (vihdzp) [inline Mathlib/Order/RelClasses.lean:127]:
```suggestion

theorem InvImage.trichotomous {α β : Type*} {r : α → α → Prop} [IsTrichotomous α r] {f : β → α}
```

File: Mathlib/Data/List/Shortlex.lean (hunk 16 above)
Comment (vihdzp) [reply Mathlib/Data/List/Shortlex.lean:170]: Alright then. I don't want to hold this up indefinitely on some golfing that might or might not happen. We can always go back to clean up proofs after the fact.

Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean:170]: Okay, thank you! Yeah I'm happy to keep playing around with it when I get a bit of time

File: Mathlib/Data/List/Shortlex.lean [hunk 23]
```diff
@@ -0,0 +1,198 @@
...
+      exact h2.1
+    exact List.Lex.append_left r h2.2 (head :: tail)
+
+section WellFounded
+
+variable {h : WellFounded r}
+
+theorem _root_.Acc.shortlex {a : α} (n : ℕ) (aca : Acc r a)
+    (acb : (b : List α) → b.length < n → Acc (Shortlex r) b) (b : List α) (hb : b.length < n)
+    (ih : ∀ s : List α, s.length < (a :: b).length → Acc (Shortlex r) s) :
```
Comment (eric-wieser) [inline Mathlib/Data/List/Shortlex.lean:132]: The statement of this is slightly complicated; could you add a docstring?

**Review by eric-wieser — APPROVED** [review]
@vihdzp, any final thoughts?

File: Mathlib/Data/List/Shortlex.lean (hunk 23 above)
Comment (hannahfechtner) [reply Mathlib/Data/List/Shortlex.lean]: It was in fact needlessly complicated; I've simplified it so it should be much clearer. also, I made it private as it is really just used for the inductive case of the proof of well-foundedness

**Review by eric-wieser — APPROVED** [review]
bors d+

I assume we won't hear from @vihdzp, but this all looks very clean to me, so I would expect any coments to be manageable in a follow up.

Let's leave this two days for @YaelDillies to express any opinions. If they don't appear, then feel free to merge.

Thanks for your patience!

File: Mathlib/Data/List/Shortlex.lean [hunk 24]
```diff
@@ -0,0 +1,175 @@
...
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r`  when `s` is smaller than `t` under the lexicographic order over `r` -/
+theorem of_lex {s t : List α} (len_eq : s.length = t.length) (h_lex : List.Lex r s t) :
+    Shortlex r s t := by
+  apply Prod.lex_def.mpr
+  right
+  exact ⟨len_eq, h_lex⟩
+
+theorem _root_.List.shortlex_def {s t : List α} : Shortlex r s t ↔
+    s.length < t.length ∨ s.length = t.length ∧ List.Lex r s t := Prod.lex_def
```
Comment (YaelDillies) [inline Mathlib/Data/List/Shortlex.lean:58]: Please start statements that need a linebreak on a new line
```suggestion
theorem _root_.List.shortlex_def {s t : List α} :
    Shortlex r s t ↔ s.length < t.length ∨ s.length = t.length ∧ List.Lex r s t := Prod.lex_def
```

File: Mathlib/Data/List/Shortlex.lean [hunk 25]
```diff
@@ -0,0 +1,175 @@
...
+
+/-- If two lists `s` and `t` have the same length, `s` is smaller than `t` under the shortlex order
+over a relation `r` exactly when `s` is smaller than `t` under the lexicographic order over `r`.-/
+theorem _root_.List.shortlex_iff_lex {s t : List α} (h : s.length = t.length) :
+    Shortlex r s t ↔ List.Lex r s t := by
+  simp [shortlex_def, h]
+
+theorem cons_iff [IsIrrefl α r] {a : α} {s t : List α} : Shortlex r (a :: s) (a :: t) ↔
```
Comment (YaelDillies) [inline Mathlib/Data/List/Shortlex.lean:66]:
```suggestion
theorem _root_.List.shortlex_cons_iff [IsIrrefl α r] {a : α} {s t : List α} : Shortlex r (a :: s) (a :: t) ↔
```
(I doubt it's useful to do `namespace Shortlex` here)

File: Mathlib/Data/List/Shortlex.lean [hunk 26]
```diff
@@ -0,0 +1,175 @@
...
+    Shortlex r s t := by
+  simp only [shortlex_def, length_cons, add_lt_add_iff_right, add_left_inj, List.Lex.cons_iff]
+
```
Comment (YaelDillies) [inline Mathlib/Data/List/Shortlex.lean:69]:
```suggestion

alias ⟨Shortlex.of_cons, Shortlex.cons⟩ := shortlex_cons_iff

```

File: Mathlib/Data/List/Shortlex.lean [hunk 27]
```diff
@@ -0,0 +1,175 @@
...
+@[simp]
+theorem not_nil_right {s : List α} : ¬ Shortlex r s [] := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Shortlex.lean:71]:
```suggestion
theorem _root_.List.not_shortlex_nil_right {s : List α} : ¬ Shortlex r s [] := by
```
etc

File: Mathlib/Data/List/Shortlex.lean [hunk 28]
```diff
@@ -0,0 +1,175 @@
...
+
+@[simp]
+theorem singleton_iff (a b : α) : Shortlex r [a] [b] ↔ r a b := by
+  simp only [shortlex_def, length_singleton, lt_self_iff_false, Lex.singleton_iff, true_and,
+    false_or]
+
+instance isTrichotomous [IsTrichotomous α r] : IsTrichotomous (List α) (Shortlex r) :=
+  ⟨(InvImage.isTrichotomous (by simp [Function.Injective])).trichotomous⟩
+
+
```
Comment (YaelDillies) [inline Mathlib/Data/List/Shortlex.lean:90]:
```suggestion
```

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! Here is a preliminary batch of comments.

File: Mathlib/Data/List/Shortlex.lean (hunk 25 above)
Comment (eric-wieser) [reply Mathlib/Data/List/Shortlex.lean:66]: I ignored this because the current version is I believe consistent with `List.Lex`. If you feel strongly about this, can you make a PR to clean up the Lex namespace first?

**Comment by eric-wieser** [comment]
bors d-

bors d=@YaelDillies

File: Mathlib/Data/List/Shortlex.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Shortlex.lean:66]: #22935

**Comment by YaelDillies** [comment]
I have done the renames now that #22935 is merged. Thanks again!

bors merge

**Comment by YaelDillies** [comment]
bors merge
